US07241893B2
A mixture of N-(6-bromo-4-hydroxy-quinolin-2-yl)-acetamide (32 g, 0.114 mol), ethyl iodide (26.77 g, 0.171 mol) and potassium carbonate (130 g, 0.912 mol) in acetonitrile (250 ml) was refluxed for 2 h. The solvent was evaporated and the residue was triturated with water. The precipitate was collected by filtration and dried to afford N-(6-bromo-4-ethoxy-quinolin-2-yl)-acetamide as a pale yellow solid (28 g, 80%). This material was used in the next step without further purification.

reactant | N-(6-bromo-4-hydroxy-quinolin-2-yl)-acetamide | 0.114 mol, 32 g | BrC=1C=C2C(=CC(=NC2=CC1)NC(C)=O)O | C11H9BrN2O2
reactant | ethyl iodide | 0.171 mol, 26.77 g | C(C)I | C2H5I
reactant | potassium carbonate | 0.912 mol, 130 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-(6-bromo-4-ethoxy-quinolin-2-yl)-acetamide | 28 g, 80% | BrC=1C=C2C(=CC(=NC2=CC1)NC(C)=O)OCC | C13H13BrN2O2
